US06515011B2
To a stirred solution of ethyl 2-hydroxy-2,5-dimethyl-3-hexynoate from the previous step (0.35 g, 1.9 mmol) in 2 mL THF was added H2O (2 mL) and 1 N NaOH solution (2 mL). The reaction was stirred at ambient temperature for 3 h. The mixture was acidified with 1N HCl (2 mL) and extracted twice with Et2O (10 mL). The organic layers were washed with brine, dried over anhydrous MgSO4, and filtered. The filtrate solvent was removed on a rotary evaporator to give 2-hydroxy-2,5-dimethy-3-hexynoic acid as a white solid (0.272 g, 92%). 1H NMR, 400 MHz, CDCl3, 4.81 ppm (br, s, 1H); 2.56-2.62 ppm (m, 1H); 1.70 ppm (s, 3H); 1.17 ppm (d, J=3.18 Hz, 6H).

reactant | ethyl 2-hydroxy-2,5-dimethyl-3-hexynoate | OC(C(=O)OCC)(C#CC(C)C)C | C10H16O3
reactant | H2O | 2 mL | O | H2O
reactant | NaOH | 1 N, 2 mL | [OH-].[Na+]
reactant | HCl | 1N, 2 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-hydroxy-2,5-dimethy-3-hexynoic acid | 0.272 g, 92% | OC(C(=O)O)(C#CC(C)C)C | C8H12O3
